US05292887
b) 1-benzyl-4-(2,3-dihydro-2-methoxymethyl-1H-inden-2-yl)-1H-imidazole
The reaction was performed according to example 9c using 1,66 g of [2-(1-benzyl-1H-imidazol-4-yl)-2,3-dihydro-1H-inden-2-yl]methanol (base) and 1,42 g of methyl iodide as starting materials, sodium hydride (0,84 g of a 50% dispersion of NaH in mineral oil) as reagent and dry tetrahydrofuran as solvent.

reactant | [2-(1-benzyl-1H-imidazol-4-yl)-2,3-dihydro-1H-inden-2-yl]methanol | 1,66 g | C(C1=CC=CC=C1)N1C=NC(=C1)C1(CC2=CC=CC=C2C1)CO | C20H20N2O
reactant | methyl iodide | 1,42 g | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyl-4-(2,3-dihydro-2-methoxymethyl-1H-inden-2-yl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC(=C1)C1(CC2=CC=CC=C2C1)COC | C21H22N2O
